US07119115B2
Starting with a mixture of 1.23 g of 6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxylic acid, 0.26 cm3 of cyclopropylamine, 0.86 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 60 mg of hydroxybenzotriazole in solution in 30 cm3 of dichloromethane, and after stirring for 18 hours at a temperature in the region of 20° C., washing with twice 30 cm3 of distilled water and purifying the crude product obtained by flash chromatography on silica gel (30–70 μm), eluting with a cyclohexane/ethyl acetate (60/40) mixture, 0.58 g of (N-cyclopropyl)-6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxamide is obtained in the form of a yellow solid, the characteristics of which are as follows:

reactant | 6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxylic acid | 1.23 g | C1(=CC=CC=C1)C1(C=CC=2C(=NNC2C1)C(=O)O)C1=CC=CC=C1 | C20H16N2O2
reactant | cyclopropylamine | 0.26 cm3 | C1(CC1)N | C3H7N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.86 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 60 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dichloromethane | 30 cm3 | ClCCl | CH2Cl2
product | (N-cyclopropyl)-6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxamide | 0.58 g | C1(CC1)NC(=O)C1=NNC=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21N3O
